US08058441B2
1-Acetyl-4-phenyl-1,2,3,4-tetrahydro-6-(4-[trifluoromethyl]benzoyl)amino-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg) with 4-trifluoromethylbenzoyl chloride (14 mg) and N,N-diisopropylethylamine (22 μl) in tetrahydrofuran (1 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 4-trifluoromethylbenzoyl chloride | 14 mg | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | N,N-diisopropylethylamine | 22 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-4-phenyl-1,2,3,4-tetrahydro-6-(4-[trifluoromethyl]benzoyl)amino-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=CC=C(C=C1)C(F)(F)F)=O)(C)C1=CC=CC=C1)(C)C | C28H27F3N2O2
